US04318915
2-chloro-2-(2,6-dichlorophenyl) acetylchloride
69 g (0.31 mols) 2,6-dichlorophenyl acetylchloride are heated to 160 degrees C. and chlorinated by introducing chlorine gas under UV radiation for eight hours.

reactant | 2,6-dichlorophenyl acetylchloride | 0.31 mols, 69 g | ClC1=C(C(=CC=C1)Cl)CC(=O)Cl | C8H5Cl3O
reactant | chlorine | ClCl | Cl2
product | 2-chloro-2-(2,6-dichlorophenyl) acetylchloride | ClC(C(=O)Cl)C1=C(C=CC=C1Cl)Cl | C8H4Cl4O
